US05876945
Preparation of Z-Leu-Asp(OtBu)-Leu-Ala-CH2Cl
Boc-Ala-CH2Cl (2 g) in 5 equiv of HCl in dioxane was stirred at room temp for 1 h. After removal of solvent, the residue was triturated with diethyl ether to give crude H-Ala-CH2Cl (1.41 g). The Z-Leu-Asp(OtBu)-Leu-OH (2.68 g) and N-methylmorpholine (0.54 mL) were dissolved in THF (25 mL), the cooled to -20° C. Isobutyl chloroformate (0.64 mL) was added to generate the mixed anhydride, which was transferred to the H-Ala-CH2Cl (1.41 g in 10 mL of DMF) solution at -20° C. The resulting mixture was allowed to come to room temp and reaction was completed in 3 h. The salt was removed by filtration. The filtrate was concentrated, redissolved in ethyl acetate (100 mL). The solution was washed with 0.2N HCl, 5% NaHCO3, sat. NaCl; dried over Na2SO4, filtered, and concentrated to yield crude solid of 3.19 g. The crude Z-Leu-Asp(OtBu)-Leu-Ala-CH2Cl was purified by Sephadex LH20 column chromatography.

reactant | Z-Leu-Asp(OtBu)-Leu-OH | 2.68 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C28H43N3O8
reactant | N-methylmorpholine | 0.54 mL | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 0.64 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | H-Ala-CH2Cl | 10 mL, 1.41 g | N[C@@H](C)C(=O)CCl | C4H8ClNO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Z-Leu-Asp(OtBu)-Leu-Ala-CH2Cl | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C32H49ClN4O8
